US04496560
2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-methylamino-thiazol-5-yl)-8-oxa-5-thia-1-azabicyclo[4.2.0]oct-2-ene can be prepared by following the working method of Example 2, but replacing the thiourea by N-methylthiourea (4 g). Starting from 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylamino-vinyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (E-form)(20 g), and following purification by chromatography on a column (height: 45 cm, diameter: 4 cm) of silica gel (0.2-0.06 mm), elution being carried out with mixtures of cyclohexane and ethyl acetate, successively 50:50 by volume (1.5 liters), 40:60 by volume (1 liter) and 20:80 by volume (1.5 liters), and then with ethyl acetate (1 liter), and the fractions containing the expected product (according to thin layer chromatography) being combined and evaporated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C., 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-methylamino-thiazol-5-yl)-8-oxo-5-thia- 1-azabicyclo[4.2.0]oct-2-ene (4.74 g) is obtained in the form of a pale brown froth.

reactant | 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-methylamino-thiazol-5-yl)-8-oxa-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2OC(C2SCC1C1=CN=C(S1)NC)NC(=O)OC(C)(C)C | C28H30N4O5S2
reactant | N-methylthiourea | 4 g | CNC(=S)N | C2H6N2S
reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylamino-vinyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CN(C)C)NC(=O)OC(C)(C)C)=O | C29H33N3O5S
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-methylamino-thiazol-5-yl)-8-oxo-5-thia- 1-azabicyclo[4.2.0]oct-2-ene | 4.74 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC)NC(=O)OC(C)(C)C)=O | C29H30N4O5S2
